US05856303
Separately, 2 mmol amino-group-protected amino acid Boc-Leu--OH corresponding to the amino acid residue at the 27-position in SEQ ID NO:1 was dissolved in 4 ml DCM. This solution was introduced into a vessel for amino acid activation, and after 3 ml DCC (0.5M in DCM) and 4 ml HOBt (0.5M in DCM) were added to it, and they were reacted for 30 minutes. Thereafter, the reaction solution was filtered off and the filtrate was transferred to a concentration vessel. 3 ml DMF was added to it and the DCM was distilled off in an argon stream. Then, 3 ml DMF was added to the concentrate, and it was transferred to the above reactor for peptide solid-phase synthesis and reacted for 30 minutes. Then, the reaction mixture was washed with 8 ml DCM (6 times, 20 seconds each). Separately, 2 mmol Boc-Leu--OH was dissolved in 4 ml DCM and the solution was introduced into the reactor for amino acid activation and the same procedure as described above was repeated (double-coupling) and filtered. Boc-Leu-MBHA resin was thus obtained.

reactant | DCC | 0.5M, 3 ml | C1CCC(CC1)N=C=NC2CCCCC2 | C13H22N2
reactant | HOBt | 0.5M, 4 ml | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | Boc-Leu--OH | 2 mmol | CC(C)C[C@@H](C(=O)O)NC(=O)OC(C)(C)C | C11H21NO4
reactant | DCM | 4 ml | C(Cl)Cl | CH2Cl2
reactant | DCM | 4 ml | C(Cl)Cl | CH2Cl2
product | Boc-Leu MBHA resin | N([C@@H](CC(C)C)C(=O)O)C(=O)OC(C)(C)C.CC1=CC=C(C=C1)C(C2=CC=CC=C2)N.C=CC1=CC=CC=C1.C=CC1=CC=C(C=C1)C=C.Cl | InChI=1S/C14H15N.C11H21NO4.C10H10.C8H8.ClH/c1-11-7-9-13(10-8-11)14(15)12-5-3-2-4-6-12;1-7(2)6-8(9(13)14)12-10(15)16-11(3,4)5;1-3-9-5-7-10(4-2)8-6-9;1-2-8-6-4-3-5-7-8;/h2-10,14H,15H2,1H3;7-8H,6H2,1-5H3,(H,12,15)(H,13,14);3-8H,1-2H2;2-7H,1H2;1H/t;8-;;;/m.0.../s1
